US07576077B2
6-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-5-methoxy-3,6-dihydro-2H-pyrazine-1-carboxylic acid tert-butyl ester
Trimethyloxoniuim tetrafluoroborate (169.4 mg, 1.15 mmol) was added to 2-[3-(3-chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-3-oxo-piperazine-1-carboxylic acid tert-butyl ester (450 mg, 1.15 mmol) in dichloromethane (3 mL) under argon at room temperature and then stirred overnight. The reaction mixture was directly purified by flash chromatography on basic alumina using 30% ethyl acetate in hexanes to afford the titled compound (284.6 mg, 61%). 1H NMR (CDCl3) δ (ppm): 8.09 (m, 1H), 7.97 (m, 1H), 7.46 (m, 2H), 4.88 (m, 1H), 4.01 (m, 1H), 3.72 (s, 3H), 3.51 (m, 3H), 3.35 (m, 1H), 2.90 (m, 1H), 1.34 (m, 9H).

reactant | tetrafluoroborate | 1.15 mmol, 169.4 mg | F[B-](F)(F)F
reactant | 2-[3-(3-chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 1.15 mmol, 450 mg | C(C)(C)(C)OC(=O)N1C(C(NCC1)=O)C1=NC(=NO1)C1=CC(=CC=C1)Cl | C17H19ClN4O4
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 6-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-5-methoxy-3,6-dihydro-2H-pyrazine-1-carboxylic acid tert-butyl ester | 284.6 mg, 61% | C(C)(C)(C)OC(=O)N1CCN=C(C1C1=NC(=NO1)C1=CC(=CC=C1)Cl)OC | C18H21ClN4O4
